US05922742
Step 1: Trifluoromethanesulfonic acid 2-methyl-5-pyridinyl ester
To a -78° C. solution of 2-methyl-5-hydroxypyridine (1.0 g, 9.16 mmol) and diisopropylethyl amine (2.23 mL, 12.83 mmol) in CH2Cl2 (50 mL) was added trifluoromethanesulfonic anhydride (1.85 mL, 11.0 mmol). The reaction mixture was then allowed to warm to r.t. After 30 min, the mixture was washed with water and brine, filtered through cotton and concentrated to dryness. The residue was purified by flash chromatography (12.5% EtOAc/hexanes) to give 0.483 g of the title compound.

reactant | 2-methyl-5-hydroxypyridine | 9.16 mmol, 1.0 g | CC1=NC=C(C=C1)O | C6H7NO
reactant | diisopropylethyl amine | 12.83 mmol, 2.23 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 11.0 mmol, 1.85 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 2-methyl-5-pyridinyl ester | 0.483 g | CC1=NC=C(C=C1)OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
